US08648208B2
(1) 1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-methylbutanol
To mixed solution of 2M isobutylmagnesium bromide in THF (6.25 mL) and ether (50 mL), was added dropwise a solution of 2-fluoro-4-(trifluoromethyl)benzaldehyde (2.0 g, 10 mmol) in ether (18 mL) under N2 atmosphere. The mixture was stirred at room temperature for 45 minutes, to which was added saturated aqueous ammonium chloride solution and 1M hydrochloric acid under ice-cooling. The aqueous layer was extracted with ether. The organic layer was washed with saturated aqueous sodium bicarbonate solution, saturated brine successively. After drying over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1), to give the titled compound as a yellow oil (601 mg, yield 23%).

reactant | isobutylmagnesium bromide | 2M | C(C(C)C)[Mg]Br
reactant | 2-fluoro-4-(trifluoromethyl)benzaldehyde | 10 mmol, 2.0 g | FC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F4O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 6.25 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | ether | 18 mL | CCOCC | C4H10O
product | 1-[2-Fluoro-4-(trifluoromethyl)phenyl]-3-methylbutanol | 601 mg, yield 23% | FC1=C(C=CC(=C1)C(F)(F)F)C(CC(C)C)O | C12H14F4O
